US08058461B2
7a): Chloro(dimethyl)(2-methyl-1H-inden-7-yl)silane
To 11.9 g (0.496 mol) of magnesium turnings in 80 mL of dry THF a solution of 50.0 g (0.239 mol) of 2-methyl-7-bromo-1H-indene and 45.0 g (0.239 mol) of 1,2-dibromoethane in 620 mL of THF was added dropwise by vigorous stirring in such rate that the mixture is refluxed. Then, this mixture was additionally refluxed for 30 minutes. Further on, to a solution of 110 g (0.853 mol) of dichlorodimethylsilane in 100 mL of THF the above-obtained solution of the Grignard reagent was added dropwise with vigorous stirring at room temperature using water bath to cool the reaction mixture. The resulting mixture was additionally stirred for 12 hours at ambient temperature, evaporated to dryness, and then 200 mL of dry ether was added. The obtained suspension was stirred for 20 minutes at room temperature and then filtered through glass frit (G3). The precipitate was additionally washed with 2×200 mL of ether. The combined filtrate was evaporated to dryness, and the residue was rectificated in vacuum, b.p. 105° C.-110° C./1 mm Hg. Yield 42.5 g (80%) of the title product. 1H NMR (CD2Cl2): δ 7.37-7.41 (m, 2H, 4,6-H), 7.30 (m, 1H, 5-H), 6.57 (m, 1H, 3-H), 3.51 (m, 2H, 1,1′-H), 2.23 (m, 3H, 2-Me), 0.81 (s, 6H, SiMe2). Anal. Calc. for C12H15ClSi: C, 64.69; H, 6.79%. Found: C, 64.56; H, 6.85%.

reactant | magnesium | 0.496 mol, 11.9 g | [Mg] | Mg
reactant | 2-methyl-7-bromo-1H-indene | 0.239 mol, 50.0 g | CC=1CC2=C(C=CC=C2C1)Br | C10H9Br
reactant | 1,2-dibromoethane | 0.239 mol, 45.0 g | BrCCBr | C2H4Br2
reactant | dichlorodimethylsilane | 0.853 mol, 110 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 620 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Chloro(dimethyl)(2-methyl-1H-inden-7-yl)silane | Cl[Si](C=1C=CC=C2C=C(CC12)C)(C)C | C12H15ClSi
